.circuit
V0 n1 GND ac 1 0 #gfgdsdk
#hkdghglrk
R1 n1 n2 4500
L1 n2 n3 80.96e-6
C1 n3 GND 2.485e-12
L2 n3 n4 80.96e-6
R2 n4 GND 4000 #isddgh
.end #hskdgbjd
.ac V 1000
